US05344843
Methanesulfonyl chloride (0.77 g was added slowly with stirring to a cooled (-40° C.) solution of rac-delta-hydroxy-2-naphthalenebutanol (1.45 g) in dry pyridine (6 mL). The mixture was stirred at -40° C. for 5 hours, then was poured into water (20 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were washed in turn with water (2×10 mL), saturated magnesium sulfate solution (3×15 mL) and brine, then were dried (MgSO4) and evaporated. The resulting oil was purified by HPLC (ethyl acetate-hexane; 2:3) to provide 1.25 g of rac-alpha-(3-mesyloxypropyl)-2-naphthalenemethanol as an oil.

reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | rac-delta-hydroxy-2-naphthalenebutanol | 1.45 g | OC(CCCO)C1=CC2=CC=CC=C2C=C1 | C14H16O2
reactant | water | 20 mL | O | H2O
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | rac-alpha-(3-mesyloxypropyl)-2-naphthalenemethanol | 1.25 g | S(=O)(=O)(C)OCCCC(O)C1=CC2=CC=CC=C2C=C1 | C15H18O4S
